US06555577B1
The colourless solid, (E)-ethyl 3-[1,1′;3′,1″]terphenyl-5′-yl-acrylate was prepared from (E)-ethyl 3-(3,5-dibromophenyl)-acrylate and phenylboronic acid by a procedure analogous to that described in example 52a.

reactant | (E)-ethyl 3-(3,5-dibromophenyl)-acrylate | BrC=1C=C(C=C(C1)Br)/C=C/C(=O)OCC | C11H10Br2O2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | (E)-ethyl 3-[1,1′;3′,1″]terphenyl-5′-yl-acrylate | C1(=CC=CC=C1)C1=CC(=CC(=C1)/C=C/C(=O)OCC)C1=CC=CC=C1 | C23H20O2
